US05223498
A mixture of 2-methyl-1-(2-morpholinophenyl)-3-methyl-2-thiopseudourea (4 g prepared from the hydroiodide salt described in Example 210), potassium hydroxide (1.7 g), n-pentylamine (2.1 g), lead acetate trihydrate (5.8 g) and ethanol (20 ml) were heated at 90°-95° C. for 40 minutes to yield an oil which was extracted with hexane to give 1-methyl-2-(2-morpholinophenyl)-3-(n-pentyl)guanidine which was converted into its monofumarate salt (m.p. 148°-149° C.) which was recrystallised from a 3:5 mixture of methanol and ether.

reactant | 2-methyl-1-(2-morpholinophenyl)-3-methyl-2-thiopseudourea | CSC(NC1=C(C=CC=C1)N1CCOCC1)=NC | C13H19N3OS
reactant | potassium hydroxide | 1.7 g | [OH-].[K+]
reactant | n-pentylamine | 2.1 g | C(CCCC)N | C5H13N
reactant | lead acetate trihydrate | 5.8 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-methyl-2-(2-morpholinophenyl)-3-(n-pentyl)guanidine | CNC(=NC1=C(C=CC=C1)N1CCOCC1)NCCCCC | C17H28N4O
